US08008305B2
rac-N-[1-(3,4-Dichloro-phenyl)-ethyl]-3-fluoro-benzamide
To a solution of 143.8 mg (0.75 mmol) N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC.HCl) and 91.6 mg (0.75 mmol) 4-dimethylaminopyridine (DMAP) in 1.5 ml dichloromethane were added 142 mg (0.75 mmol) rac-1-(3,4-dichloro-phenyl)-ethylamine and the solution stirred at ambient temperature for 5 min. To this solution were added 70 mg (0.5 mmol) 3-fluoro-benzoic acid and the mixture stirred at ambient temperature for 5 hours.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.75 mmol, 143.8 mg | Cl.CN(CCCN=C=NCC)C
reactant | rac-1-(3,4-dichloro-phenyl)-ethylamine | 0.75 mmol, 142 mg | ClC=1C=C(C=CC1Cl)C(C)N | C8H9Cl2N
reactant | 3-fluoro-benzoic acid | 0.5 mmol, 70 mg | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
catalyst | 4-dimethylaminopyridine | 0.75 mmol, 91.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | rac-N-[1-(3,4-Dichloro-phenyl)-ethyl]-3-fluoro-benzamide | ClC=1C=C(C=CC1Cl)C(C)NC(C1=CC(=CC=C1)F)=O | C15H12Cl2FNO
